US06610688B2
To a solution of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (767.9 mg, 5 mmol) and 3-chloro-4-fluoro-phenylamine (873.4 mg, 6 mmol) in 25 mL of dry DMF under nitrogen was added silver trifluoromethanesulfonate (1.54 g, 6 mmol). The mixture was stirred at 95° C. for 15 hours. The cooled reaction was diluted with ethyl acetate (70 mL) and filtered through celite, washed thoroughly with ethyl acetate. The filtrate was washed with brine (5×). The brine was extracted with ethyl acetate which was then washed with brine. The combined ethyl acetate was dried (magnesium sulfate), concentrated and purified to give 1.22 g (93%) of (3-chloro-4-fluoro-phenyl)-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine as an off-white solid. m.p. 274-275 ° C. 1H NMR (360 MHz, DMSO-d6) δ 11.78 (br s, 1H, NH), 9.41 (s, 1H), 8.31 (s, 1H), 8.28 (m, 1H), 7.79 (m, 1H), 7.37 (t, 1H), 7.25 (m, 1H), 6.76 (m, 1H). MS 263.4 [M+].

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 5 mmol, 767.9 mg | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | 3-chloro-4-fluoro-phenylamine | 6 mmol, 873.4 mg | ClC=1C=C(C=CC1F)N | C6H5ClFN
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
catalyst | silver trifluoromethanesulfonate | 6 mmol, 1.54 g | FC(S(=O)(=O)[O-])(F)F.[Ag+]
product | (3-chloro-4-fluoro-phenyl)-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine | 1.22 g, 93% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC=C2 | C12H8ClFN4
